US08669281B1
To a solution of 2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)ethyl methyl fumarate (2.52 g, 6.2 mmol) in dioxane (25 ml) was added 2M HCl in dioxane (30 ml) and the mixture stirred for 90 hours. The precipitate was filtered, washed with diethyl ether and dried in a vacuum oven at 55° C. for 18 hours to give (E)-2,2′-((2-((4-methoxy-4-oxobut-2-enoyl)oxy)ethyl)azanediyl)diacetic acid hydrochloride, a white solid (1.31 g, 65%).

reactant | 2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)ethyl methyl fumarate | 6.2 mmol, 2.52 g | C(\C=C\C(=O)OC)(=O)OCCN(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C | C19H31NO8
reactant | HCl | 2M | Cl | ClH
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | (E)-2,2′-((2-((4-methoxy-4-oxobut-2-enoyl)oxy)ethyl)azanediyl)diacetic acid hydrochloride | Cl.COC(/C=C/C(=O)OCCN(CC(=O)O)CC(=O)O)=O | InChI=1S/C11H15NO8.ClH/c1-19-10(17)2-3-11(18)20-5-4-12(6-8(13)14)7-9(15)16;/h2-3H,4-7H2,1H3,(H,13,14)(H,15,16);1H/b3-2+;
